US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (308 mg) was coupled to 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine as in General Procedure 4B to give the title compound (50% yield). LCMS: m/z=407.32 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.30 (2H, t, J=4.8 Hz), 3.56 (2H, m), 4.34 (2H, s), 5.35 (1H, bs), 7.06 (2H, m), 7.15 (1H, m), 7.33 (1H, dd, J=5.3, 1.5 Hz), 5.46 (1H, m), 7.80 (1H, d, J=1.5 Hz), 8.34 (1H, d, J=5.3 Hz).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 308 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 50% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)Cl)C(=CC=C1F)F | C19H14Cl2F2N4
